US03978042
Cytosine Arabinoside
Cyclocytidine salt (8.0023 g., 18.25 mmole) and 80 ml. of 2N ammonium hydroxide are stirred at 58°. Hydrolysis is complete at 70 minutes.

reactant | Cyclocytidine | 18.25 mmole, 8.0023 g | C1=CN2[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)OC2=NC1=N | C9H11N3O4
reactant | ammonium hydroxide | 2N | [OH-].[NH4+]
product | Cytosine Arabinoside | C1=CN(C(=O)N=C1N)[C@H]2[C@H]([C@@H]([C@H](O2)CO)O)O | C9H13N3O5
